US07858646B2
Synthesis of 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylsulfanyl]-benzonitrile
Add methanesulfonyl chloride (0.119 g, 1.04 mmol) to a solution of 3-(3-hydroxymethyl-phenylsulfanyl)-benzonitrile (0.250 g, 1.04 mmol) and triethylamine (0.210 g, 2.07 mmol) in dichloromethane (0.2 M). Stir for 1 h. Evaporate solvent. Dissolve the residue in N,N-dimethylformamide and add 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (0.201 g, 1.04 mmol). Add cesium carbonate (0.673 g, 2.07 mmol) and stir for 1 h at 60° C. Dilute the reaction mixture with diethyl ether and wash with water (3×). Purify the residue by flash chromatography, eluting with hexanes, ramping to 50% ethyl acetate/hexanes to elute the title compound (0.331 mg, 0.790 mmol, 76%): MS (m/z): 416 (M−1).

reactant | methanesulfonyl chloride | 1.04 mmol, 0.119 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(3-hydroxymethyl-phenylsulfanyl)-benzonitrile | 1.04 mmol, 0.250 g | OCC=1C=C(C=CC1)SC=1C=C(C#N)C=CC1 | C14H11NOS
reactant | triethylamine | 2.07 mmol, 0.210 g | C(C)N(CC)CC | C6H15N
reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 1.04 mmol, 0.201 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | cesium carbonate | 2.07 mmol, 0.673 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dichloromethane | 0.2 M | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylsulfanyl]-benzonitrile | 0.790 mmol, 0.331 mg, 76% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2C=C(C#N)C=CC2)C=C1)CCC)O | C25H23NO3S
